US06518423B1
N-[1-[2-(Trimethylsilyl)ethoxymethyl]imidazol-2-ylmethyl]-acetamide
Under ice-cooling, 0.08 g of sodium hydride (60% oily) was added to a solution of 0.31 g of N-(imidazol-2-ylmethyl)acetamide in N,N-dimethylformamide (10 ml). After stirring for 15 minutes, a solution of 0.35 ml of 2-(trimethylsilyl)ethoxymethyl chloride in N,N-dimethylformamide (1 ml) was dropped thereinto and the resulting mixture was stirred at room temperature for additional 16 hours. Then the reaction mixture was distributed into water and ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. After concentrating under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 0.16 g of the title compound as a colorless oily substance.

reactant | sodium hydride | 0.08 g | [H-].[Na+]
reactant | N-(imidazol-2-ylmethyl)acetamide | 0.31 g | N1C(=NC=C1)CNC(C)=O | C6H9N3O
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.35 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[1-[2-(Trimethylsilyl)ethoxymethyl]imidazol-2-ylmethyl]-acetamide | 0.16 g | C[Si](CCOCN1C(=NC=C1)CNC(C)=O)(C)C | C12H23N3O2Si
